US05880135
4-(2,4-Dichlorophenyl)-5-methyl-2-[N-(1-(methoxymethyl)-1-(naphth-2-yl)methyl)-N-propylamino]thiazole.
0.93 g of 2-bromo-1-(2,4-dichlorophenyl)propan-1-one, 1 g of N-(1-naphth-2-yl-2-methoxyethyl)-N-propyl-thiourea and 0.47 ml of triethylamine are dissolved in 20 ml of ethanol and the reaction mixture is heated for 3 hours at 70° C. The ethanol is removed by evaporation and then, successively, water is added, extraction is carried out with methylene chloride and the organic phases are washed, dried over sodium sulphate, filtered and concentrated under vacuum. The residue is purified on a column of silica gel, using a 9/1 (v/v) cyclohexane/ethyl acetate mixture as eluent, to provide 0.9 g of the expected product, the hydrochloride of which is prepared; M.p.=50° C. 1H NMR (DMSO): 0.73 (m, 3H), 1.12-1.59 (m, 2H), 2.09 (s, 3H), 3.35 (s, 3H), 3.31-3.46 (m, 2H), 3.97-4.23 (m, 2H), 5.48-5.60 (m, 1H), 7.48-7.95 (m, 10H).

reactant | 2-bromo-1-(2,4-dichlorophenyl)propan-1-one | 0.93 g | BrC(C(=O)C1=C(C=C(C=C1)Cl)Cl)C | C9H7BrCl2O
reactant | N-(1-naphth-2-yl-2-methoxyethyl)-N-propyl-thiourea | 1 g | C1=C(C=CC2=CC=CC=C12)C(COC)N(C(=S)N)CCC | C17H22N2OS
reactant | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(2,4-Dichlorophenyl)-5-methyl-2-[N-(1-(methoxymethyl)-1-(naphth-2-yl)methyl)-N-propylamino]thiazole | 0.9 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1C)N(CCC)C(C1=CC2=CC=CC=C2C=C1)COC | C26H26Cl2N2OS
